US07365085B2
b) [(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-amino]-acetic acid hydrochloride salt
Following the procedure of Example 178 step (c) except [(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-amino]-acetic acid methyl ester was used in step (c) instead of (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}phenylamino)-acetic acid methyl ester the title compound was obtained as a solid, 65 mg (96%). MS (ES) m/e 611.2 (M+).

reactant | [(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-amino]-acetic acid methyl ester | COC(CN(C)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C35H36ClF3N2O3
reactant | (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}phenylamino)-acetic acid methyl ester | COC(CNC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C34H34ClF3N2O3
product | [(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-N-methyl-amino]-acetic acid hydrochloride salt | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)N(C)CC(=O)O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C34H34ClF3N2O3.ClH/c1-39(24-32(41)42)28-16-9-17-29(21-28)43-20-10-19-40(22-27-15-8-18-31(33(27)35)34(36,37)38)23-30(25-11-4-2-5-12-25)26-13-6-3-7-14-26;/h2-9,11-18,21,30H,10,19-20,22-24H2,1H3,(H,41,42);1H
